US08471005B2
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine (2.00 g, 0.00769 mol), 3-Morpholin-4-yl-phenylamine (1.37 g, 0.00769 mol) and N,N-Diisopropylethylamine (1.49 g, 0.0115 mol) were dissolved in 2-Methoxyethanol (13.7 mL). The reaction was microwaved on 300 watts, 180° C. for 80 minutes. The solvent was then removed en vacuo. The crude mixture was purified by Isco flash column chromatography (Hexane/Ethyl Acetate). Combined fractions were reduced en vacuo to afford 1.40 g of (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine as a brown solid. (M+H)=376.05.

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00769 mol, 2.00 g | BrC1=CC=C2C=NC(=NN21)S(=O)C.BrC2=CC=C1C=NC(=NN12)NC1=CC(=CC=C1)N1CCOCC1
reactant | 3-Morpholin-4-yl-phenylamine | 0.00769 mol, 1.37 g | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
reactant | N,N-Diisopropylethylamine | 0.0115 mol, 1.49 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-Methoxyethanol | 13.7 mL | COCCO | C3H8O2
product | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(3-morpholin-4-yl-phenyl)-amine | 1.40 g | BrC1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCOCC2 | C16H16BrN5O
